US07186718B2
(i) N-Ethyl-N′-(2-hydroxyphenyl)urea
A solution of 1-isocyanato-2-methoxybenzene (0.32 g, 2.15 mmol) and ethylamine (1 mL) in dichloromethane (15 mL) was stirred at room temperature for 2 days. Then the volatiles were removed in vacuo. The residue was redissolved in dichloromethane (15 mL), and boron tribromide (BBr3) (1 M in dichloromethane (CH2Cl2), 6.5 ml, 6.5 mmol) was added dropwise via syringe under nitrogen. After stirring for 1 h the reaction mixture was diluted with dichloromethane and washed 3 times with water. The product was purified by HPLC (Kromasil column; eluant:acetonitrile+0.1% trifluoroacetic acid (TFA)/water+0.1% TFA) to give subtitle compound (167 mg).

reactant | 1-isocyanato-2-methoxybenzene | 2.15 mmol, 0.32 g | N(=C=O)C1=C(C=CC=C1)OC | C8H7NO2
reactant | ethylamine | 1 mL | C(C)N | C2H7N
reactant | boron tribromide | 6.5 mmol, 1 M, 6.5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-Ethyl-N′-(2-hydroxyphenyl)urea | 167 mg | C(C)NC(=O)NC1=C(C=CC=C1)O | C9H12N2O2
